US07851471B2
To a solution of (S)-4-methyl-2-(4-phenyl-piperazine-1-carbonyloxymethyl)-piperazine-1-carboxylic acid tert-butyl ester (1.65 g, 3.9 mmol) in MeOH (10 mL) was added 2M HCl in Et2O solution (11.8 mL, 23.6 mmol). The reaction was stirred at room temperature for 3 days. The reaction mixture was concentrated in vacuo. The residue was purified by reverse phase column chromatography (LiChroprep RP-18, 40-63 μm, 460×26 mm (100 g), 30 mL/min, gradient 0% to 15% (over 75 min) MeOH in water with 0.1% TFA. The material was then purified further by reverse phase HPLC(YMC ODS-A 100×20 mm, 5 μm, 25 mL/min, gradient 50% to 100% (over 7 min) then 100% (3 min) MeOH in 10% MeOH/water). The pure product was stirred in 4M aq HCl solution (10 mL) for 4 hours before being concentrated in vacuo. The resulting oil was washed with heptane, concentrated in vacuo and then dried in a vacuum oven overnight to afford the [(2S)-4-methylpiperazin-2-yl]methyl 4-phenylpiperazine-1-carboxylate trihydrochloride salt (1.63 g, 96%) as a pale brown solid.

reactant | (S)-4-methyl-2-(4-phenyl-piperazine-1-carbonyloxymethyl)-piperazine-1-carboxylic acid tert-butyl ester | 3.9 mmol, 1.65 g | C(C)(C)(C)OC(=O)N1[C@@H](CN(CC1)C)COC(=O)N1CCN(CC1)C1=CC=CC=C1 | C22H34N4O4
reactant | HCl | 2M | Cl | ClH
reactant | Et2O | 23.6 mmol, 11.8 mL | CCOCC | C4H10O
solvent | MeOH | 10 mL | CO | CH4O
product | [(2S)-4-methylpiperazin-2-yl]methyl 4-phenylpiperazine-1-carboxylate trihydrochloride salt | 1.63 g, 96% | Cl.Cl.Cl.C1(=CC=CC=C1)N1CCN(CC1)C(=O)OC[C@H]1NCCN(C1)C | InChI=1S/C17H26N4O2.3ClH/c1-19-8-7-18-15(13-19)14-23-17(22)21-11-9-20(10-12-21)16-5-3-2-4-6-16;;;/h2-6,15,18H,7-14H2,1H3;3*1H/t15-;;;/m0.../s1
